US07691836B2
Hydroxylamine hydrochloride (20 mg, 0.30 mmol) and water (1 mL) were added to a stirred solution of 100 mg (0.20 mmol) of (11β,16α,17β)-17-cyclopropylcarbonyl-16-methyl-11-[4-(3-pyridinyl)phenyl]estra-4,9-dien-3-one in dioxane (2 mL). The reaction mixture was stirred overnight at room temperature and then extracted three times with dichloromethane. The combined organic layers were dried through a phase separate filter and evaporated to dryness. Purification of the crude product by HPLC followed by lyophilisation gave (11β,16α,17β)-17-cyclopropylcarbonyl-16-methyl-11-[4-(3-pyridinyl)phenyl]estra-4,9-dien-3-one 3-oxime as an E/Z mixture (2:1) (85 mg, 0.17 mmol, 84% yield). 1H NMR (400 MHz, CDCl3): δ 0.31 and 0.32 (2×s, in total 3H), 0.83-2.95 (m, 25H), 4.37-4.42 (m, 1H), 5.89 and 6.55 (2×s, in total 1H), 7.26-7.32 (m, 2H), 7.35 (dd, J=8 and 5 Hz, 1H), 7.47-7.51 (m, 2H), 7.86 (dt, J=8 and 1 Hz, 1H), 8.57 (dd, J=5 and 1 Hz, 1H), 8.84 (d, J=1 Hz, 1H).

reactant | Hydroxylamine hydrochloride | 0.30 mmol, 20 mg | Cl.NO
reactant | water | 1 mL | O | H2O
reactant | (11β,16α,17β)-17-cyclopropylcarbonyl-16-methyl-11-[4-(3-pyridinyl)phenyl]estra-4,9-dien-3-one | 0.20 mmol, 100 mg | C1(CC1)C(=O)[C@@H]1[C@]2(C)[C@@H](C[C@H]1C)[C@@H]1CCC3=CC(CCC3=C1[C@H](C2)C2=CC=C(C=C2)C=2C=NC=CC2)=O | C34H37NO2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | (11β,16α,17β)-17-cyclopropylcarbonyl-16-methyl-11-[4-(3-pyridinyl)phenyl]estra-4,9-dien-3-one 3-oxime | 84% yield | C1(CC1)C(=O)[C@@H]1[C@]2(C)[C@@H](C[C@H]1C)[C@@H]1CCC3=CC(CCC3=C1[C@H](C2)C2=CC=C(C=C2)C=2C=NC=CC2)=NO | C34H38N2O2
